US05599966
A5. (6-Bromo-1-hexyl)3-phenylpropionate
From 6-bromo-1-hexanol and 3-phenylpropionic acid. Yield: 85% (oil).

reactant | 6-bromo-1-hexanol | BrCCCCCCO | C6H13BrO
reactant | 3-phenylpropionic acid | C1(=CC=CC=C1)CCC(=O)O | C9H10O2
product | (6-Bromo-1-hexyl)3-phenylpropionate | Yield: 85% | BrCCCCCCOC(CCC1=CC=CC=C1)=O | C15H21BrO2
